US08629270B2
N-[7a-(2-Fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
N,N,N′,N′-tetramethylguanidine (0.44 mL, 3.5 mmol) is added to a solution of racemic N-[7a-(2-fluorophenyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (1.0 g, 2.9 mmol) and 5-fluoro-2-chloropyrimidine (0.46 g, 3.5 mmol) in dimethylsulfoxide (10 mL). The reaction is stirred at 100° C. for 2 hours, and cooled to room temperature. To the crude reaction is added ethyl acetate (7.5 ml) and water (2.5 ml), the mixture is passed through diatomaceous earth (10 g), and the solvent removed under reduced pressure. The residue is purified by silica gel chromatography eluting with a gradient of 40% to 60% ethyl acetate in hexanes to give the title compound (560 mg, 43%). ES/MS (m/e): 452 (M+H).

reactant | N,N,N′,N′-tetramethylguanidine | 3.5 mmol, 0.44 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | racemic N-[7a-(2-fluorophenyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 2.9 mmol, 1.0 g | FC1=C(C=CC=C1)C12N=C(SCC1CNC2)NC(C2=CC=CC=C2)=O | C19H18FN3OS
reactant | 5-fluoro-2-chloropyrimidine | 3.5 mmol, 0.46 g | FC=1C=NC(=NC1)Cl | C4H2ClFN2
reactant | ethyl acetate | 7.5 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | 2.5 ml | O | H2O
product | N-[7a-(2-Fluorophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 560 mg, 43% | FC1=C(C=CC=C1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C23H19F2N5OS
